US08754115B2
Step A: Preparation of methyl 3-(2,6-difluorophenyl)-2-propynoate
To a mixture of (diazomethyl)trimethylsilane (2.0 M in hexanes, 25 mL, 50 mmol) in tetrahydrofuran (100 mL) at −78° C. was added n-butyllithium (2.5 M in hexanes, 20 mL, 50 mmol) over 5 minutes. After the addition was complete, the reaction mixture temperature was maintained at about −78° C. for 30 minutes and then 2,6-difluorobenzaldehyde (7.1 g, 50 mmol) was added portionwise. The reaction mixture was maintained at −78° C. for an additional 30 minutes and then allowed to warm to room temperature, during which time gas evolution occurred. The reaction mixture was again cooled to −78° C. and n-butyllithium (2.5 M in hexanes, 28 mL, 70 mmol) was added over 5 minutes. After 15 minutes at −78° C., methyl chloroformate (7.8 mL, 100 mmol) was added to the reaction mixture. After 30 minutes, the reaction mixture was allowed to warm to 0° C., and then partitioned between diethyl ether and saturated ammonium chloride solution. The organic phase was separated, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting material was purified by silica gel chromatography (0 to 100% gradient of ethyl acetate in hexanes as eluant) to provide the title compound (8.0 g).

reactant | (diazomethyl)trimethylsilane | 50 mmol, 2.0 M, 25 mL | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
reactant | n-butyllithium | 50 mmol, 2.5 M, 20 mL | C(CCC)[Li]
reactant | 2,6-difluorobenzaldehyde | 50 mmol, 7.1 g | FC1=C(C=O)C(=CC=C1)F | C7H4F2O
reactant | n-butyllithium | 70 mmol, 2.5 M, 28 mL | C(CCC)[Li]
reactant | methyl chloroformate | 100 mmol, 7.8 mL | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | methyl 3-(2,6-difluorophenyl)-2-propynoate | 8.0 g | FC1=C(C(=CC=C1)F)C#CC(=O)OC | C10H6F2O2
